Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],5.0896198346
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],0.64454975584
[C:12]([H:13])[H:14].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.5222092000000003
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],1.12046086563
[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.3195711027900003
[C:1]#[C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-1.25723426258
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],5.04965489872
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.13932868878
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.05785180056
[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],3.63036256399
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])[H:11].[H:7]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-4.69373088845
[H:1][C:2]([H:3])([O:4][C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]1([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-3.4465662734199993
[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-1.34651751907
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.66926470165
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[H:10],-0.424055767241
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],4.490044298469999
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],1.46582304272
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[H:11].[H:6],1.87406053159
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[C:9](=[O:10])[H:11]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9](=[O:10])[H:11],-4.443677800440001
[O:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3](#[C:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[O:2],2.63807679222
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[C:2][C:5]([H:3])([H:4])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:6]([H:7])[H:8],3.7786811774
[H:7].[O:1]=[C:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.1518850774
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])\[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.48755213877
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5],2.29101327379
[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.80959438627
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][C:13]([H:14])([H:15])[H:16],3.70822451811
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2]=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],4.77576398666
